US06482849B1
To a solution of 4-[(2,6-Dichlorobenzoyl)amino]-L-phenylalanine methyl ester hydrochloride salt, 37-B-1, (205.7 mg) in acetic acid(5 mL) was added an excess of bromine(5.55 g) in acetic acid(5 mL) and iron powder(416.2 mg). The reaction was stirred at ambient temperature for 3 hours. The reaction concentrated in vacuo and the remaining acetic acid removed as an azeotrope with toluene. The crude material was diluted with water, made basic with saturated sodium bicarbonate and extracted with AcOEt. The extract was purified by flash chromatography on silica gel eluting with methanol-methylene chloride. The purified material was dissolved in methanol saturated with hydrogen chloride and concentrated in vacuo and then crystallized from methanol with AcOEt to obtain 3-Bromo-4-[(2,6-dichlorobenzoyl)amino]-L-phenylalanine methyl ester hydrochloride salt(540.4 mg). Physical properties as follows: m.p. 200-205; 1H NMR (CD3OD) δ7.76 (1 H), 7.64 (1 H), 7.46 (3 H), 7.34 (1 H), 4.38 (1 H), 3.85 (3 H), 3.30 (1 H), 3.15 (1 H); HRMS (FAB) Calcd for C17H15BRCL2N2O3+H1 444.9722, found 444.9724.

reactant | 4-[(2,6-Dichlorobenzoyl)amino]-L-phenylalanine methyl ester hydrochloride salt | Cl.COC([C@@H](N)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O
reactant | bromine | 5.55 g | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | iron | 416.2 mg | [Fe] | Fe
product | 3-Bromo-4-[(2,6-dichlorobenzoyl)amino]-L-phenylalanine methyl ester hydrochloride salt | 540.4 mg | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)Br)=O | InChI=1S/C17H15BrCl2N2O3.ClH/c1-25-17(24)13(21)8-9-5-6-14(10(18)7-9)22-16(23)15-11(19)3-2-4-12(15)20;/h2-7,13H,8,21H2,1H3,(H,22,23);1H/t13-;/m0./s1
